US07652041B2
Step 4. Preparation of (E)-N-(4-Chloro-3-(trifluoromethyl)phenyl)-3-(3-(2-(4,5-dihydro-1H-imidazol-2-yl)pyridine-4-yloxy)phenyl)-2-methylacrylamide (B-12)
(E)-N-(4-Chloro-3-(trifluoromethyl)phenyl)-3-(3-(2-cyanopyridin-4-yloxy)phenyl)-2-methylacrylamide (500 mg, 1.09 mmol) and TEA (456 μL, 3.27 mmol) were combined and stirred in ethanol. H2S was bubbled into the solution for 2 min then the reaction mixture was sealed and allowed to stir at rt. Reaction completion was checked by LCMS and TLC. The mixture was diluted with EtOAc and washed with brine. The aqueous phase was extracted with EtOAc, and the organic solutions were combined, dried over Na2SO4, filtered, and concentrated to provide a yellow residue. The residue was redissolved in ethylene diamine (3 mL), heated to 60° C. for 5 min, and then allowed to cool to rt. The mixture was diluted with EtOAc and washed with brine. The aqueous phase was extracted with EtOAc, and the organic solutions were combined, dried over Na2SO4, filtered, and concentrated. Purification by column chromatography (SiO2, 0-10% MeOH with 1% NH4OH in DCM) provided B-12 (415 mg). LCMS, FA: Rt=1.34 min, [MH+ 501.0]. 1H NMR (400 MHz, CD3OD): δ 8.49 (d, 1H), 8.18 (d, 1H), 7.91-7.89 (dd, 1H), 7.57-7.53 (m, 3H), 7.40 (d, 1H), 7.35 (s, 1H), 7.23 (m, 1H), 7.16-7.13 (dd, 1H), 7.09-7.07 (m, 1H), 3.77 (s, 4H), and 2.16 (d, 3H).

reactant | (E)-N-(4-Chloro-3-(trifluoromethyl)phenyl)-3-(3-(2-cyanopyridin-4-yloxy)phenyl)-2-methylacrylamide | 1.09 mmol, 500 mg | ClC1=C(C=C(C=C1)NC(\C(=C\C1=CC(=CC=C1)OC1=CC(=NC=C1)C#N)\C)=O)C(F)(F)F | C23H15ClF3N3O2
reactant | ethylene diamine | 3 mL | C(CN)N | C2H8N2
solvent | ethanol | C(C)O | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (E)-N-(4-Chloro-3-(trifluoromethyl)phenyl)-3-(3-(2-(4,5-dihydro-1H-imidazol-2-yl)pyridine-4-yloxy)phenyl)-2-methylacrylamide | ClC1=C(C=C(C=C1)NC(\C(=C\C1=CC(=CC=C1)OC1=CC(=NC=C1)C=1NCCN1)\C)=O)C(F)(F)F | C25H20ClF3N4O2
